US04581168
1-Z-Arg(NO2)-Gly-OBzl
353 g of tosylate of glycine benzyl ester (H-Gly-o-Bzl, Tosylate) are dissolved in 2 liters of DMF; 115 g of NEM then 353 g of Z-Arg(NO2)-OH and finally 500 g of BOP are added. The pH of the medium is adjusted to 7 with the aid of NEM and using pH indicating paper on samples of the reaction medium diluted with water. The reaction medium is stirred and the state of advance of the reaction followed by TLC. After 4 hrs., the reaction is complete and the medium evaporated to dryness in vacuo at 35°. The residue of evaporation is taken up in 2 liters of ethyl acetate and 2 liters of water. Under these conditions, a solid is obtained which is drained and washed successively in solid phase with a 5% aqueous solution of HKSO4 +K2SO4, with pure water, with a 5% aqueous solution of NaHCO3 and finally water.

reactant | tosylate | 353 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | glycine benzyl ester | C(C1=CC=CC=C1)OC(CN)=O | C9H11NO2
reactant | Z-Arg(NO2)-OH | 353 g | N([C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19N5O6
reactant | BOP | 500 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DMF | 2 liters | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-Z-Arg(NO2)-Gly-OBzl | N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(C(=O)OCC1=CC=CC=C1)(=O)NCC(=O)OCC1=CC=CC=C1 | C23H29N6O7
